US05439928
a) 1-benzyl-5-(1-oxo-3-phenylpropyl)-1H-imidazole
1-benzyl-5-(1-hydroxy-3-phenylpropyl)-1H-imidazole is oxidized with manganese dioxide in tetrachloroethylene, as it is described in Example 7 c).

reactant | 1-benzyl-5-(1-hydroxy-3-phenylpropyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCC1=CC=CC=C1)O | C19H20N2O
solvent | tetrachloroethylene | ClC(=C(Cl)Cl)Cl | C2Cl4
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 1-benzyl-5-(1-oxo-3-phenylpropyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCC1=CC=CC=C1)=O | C19H18N2O
